US05302591
Benzenesulphonamide (9.4 g, 60 mmol), 3-nitrobenzoic acid (10.0 g, 60 mmol), 4-dimethylaminopyridine (7.32 g, 60 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (11.48 g, 60 mmol) were stirred in anhydrous dichloromethane (400 ml) for 2 hours. The reaction mixture was extracted with 1M sodium hydroxide solution (300 ml), aqueous separated then re-acidified to pH=3 with 5M hydrochloric acid. 3-Nitro-(phenylsulphonylaminocarbonyl)benzene was isolated as a colourless solid (16.0 g, 87%), mp 186°-188° C.

reactant | Benzenesulphonamide | 60 mmol, 9.4 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | 3-nitrobenzoic acid | 60 mmol, 10.0 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 60 mmol, 11.48 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 60 mmol, 7.32 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 3-Nitro-(phenylsulphonylaminocarbonyl)benzene | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)NS(=O)(=O)C1=CC=CC=C1 | C13H10N2O5S
